US07772226B2
(e) t-Butyl 4-[1-(2-butynyl)-5-cyano-4-hydroxymethyl-1H-imidazol-2-yl]piperazine-1-carboxylate
6.9 g of triethylamine and then 100 ml tetrahydrofuran solution of 10.19 g of isobutyl chloroformate were added dropwise to 600 ml of tetrahydrofuran containing 22.9 g of t-butyl 4-[1-(2-butynyl)-4-carboxy-5-cyano-1H-imidazol-2-yl]piperazine-1-carboxylate at −10° C. After the precipitate had been removed by filtration, the solution was again cooled to −10° C. A 100 ml aqueous solution of 9.45 g of sodium borohydride was added dropwise to the solution. After one hour, 500 ml of ethyl acetate and 500 ml of water were added to the solution. The pH of the solution was adjusted to 5 using 1 N hydrochloric acid, and then adjusted to 10 using a saturated sodium bicarbonate solution. The organic layer was washed successively with 500 ml of water and 500 ml of a saturated sodium chloride solution. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 19.1 g of the title compound was obtained from the fraction eluted with ethyl acetate-hexane (4:1).

reactant | triethylamine | 6.9 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 10.19 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | t-butyl 4-[1-(2-butynyl)-4-carboxy-5-cyano-1H-imidazol-2-yl]piperazine-1-carboxylate | C(C#CC)N1C(=NC(=C1C#N)C(=O)O)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23N5O4
solvent | tetrahydrofuran | 600 ml, 22.9 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | t-Butyl 4-[1-(2-butynyl)-5-cyano-4-hydroxymethyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 19.1 g | C(C#CC)N1C(=NC(=C1C#N)CO)N1CCN(CC1)C(=O)OC(C)(C)C | C18H25N5O3
